US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (5.97 g) and 4-trifluoromethoxybenzonitrile (7.49 g) were reacted, to give 3-(4-trifluoromethoxyphenyl)isoquinolin-1-one (3.04 g).

reactant | N-methyl-2-methylbenzamide | 5.97 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 4-trifluoromethoxybenzonitrile | 7.49 g | FC(OC1=CC=C(C#N)C=C1)(F)F | C8H4F3NO
product | 3-(4-trifluoromethoxyphenyl)isoquinolin-1-one | 3.04 g | FC(OC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O)(F)F | C16H10F3NO2
